US07935828B2
2-Decylthiophene (52.8 g, 0.235 mol) prepared above and DMF (200 ml) were placed in a 1000-ml three-necked flask equipped with a 200-ml dropping funnel and a reflux tube. A solution of N-bromosuccinimide (hereinafter referred to as “NBS”) (44.0 g, 0.247 mol) in DMF (100 ml) was added dropwise to the solution at room temperature in an argon gas stream over a period of about one hr. After the completion of the dropwise addition, the mixture was stirred with heating at 100° C. for about 2 hr. After the completion of the reaction, water (300 ml) was added to the reaction solution, and the organic layer was extracted with diethyl ether, was dried over sodium sulfate, and was applied to column chromatography (n-hexane) to give an objective compound 2-bromo-5-decylthiophene as a yellow liquid (67.0 g, yield 94.0%). An NMR spectrum of the compound thus obtained was measured at room temperature with an NMR spectrometer (model JNM-LA400W, manufactured by Japan Electric Optical Laboratory). 1H-NMR (CDCl3, TMS/ppm): 0.88 (t, 3H, J=6.83 Hz), 1.26 (m, 14H), 1.61 (m, 2H), 2.73 (t, 2H, J=7.32 Hz), 6.52 (d, 1H, J=3.90 Hz). 6.83 (d, 1H, J=3.90 Hz).

reactant | 2-Decylthiophene | 0.235 mol, 52.8 g | C(CCCCCCCCC)C=1SC=CC1 | C14H24S
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 300 ml | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 2-bromo-5-decylthiophene | 67.0 g, yield 94.0% | BrC=1SC(=CC1)CCCCCCCCCC | C14H23BrS
